2125-01-05 11:43:00 Physician Attending Progress Note
Chief Complaint: coffee ground emesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MULTI LUMEN - START [**2125-1-4**] 08:00 AM
 EKG - At [**2125-1-4**] 02:25 PM
 TRANSTHORACIC ECHO - At [**2125-1-4**] 03:12 PM negative for pericardial
   effusion.
   Allergies:
   Nystatin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-1-4**] 03:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   protonix iv, cefepime 500 iv q24, ciprofloxacin 400 q24, vancomycin
   q48.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-5**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 70 (62 - 133) bpm
   BP: 115/59(72) {50/27(32) - 133/78(89)} mmHg
   RR: 9 (8 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,393 mL
                                                                    418 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,518 mL
                                                                    178 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    365 mL
                                                                    230 mL
   Urine:
                                                                    165 mL
                                                                    230 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,028 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left lower extremity edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   242 K/uL
   122 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.6 mEq/L
   51 mg/dL
   112 mEq/L
   147 mEq/L
   29.0 %
   16.8 K/uL
        [image002.jpg]
                             [**2125-1-4**]  08:10 AM
                             [**2125-1-4**]  10:40 AM
                             [**2125-1-4**]  02:22 PM
                             [**2125-1-4**]  07:43 PM
                             [**2125-1-5**]  03:14 AM
   WBC
   25.1
   16.8
   Hct
   31.0
   30.6
   31.8
   29.0
   Plt
   377
   242
   Cr
   1.1
   1.0
   TropT
   0.11
   0.11
   0.10
   Glucose
   131
   122
   Other labs: PT / PTT / INR:15.6/29.9/1.4, CK / CKMB /
   Troponin-T:28//0.10, ALT / AST:20/21, Alk Phos / T Bili:43/0.8, Amylase
   / Lipase:59/46, Fibrinogen:450 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.3 g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Imaging: KUB no bowel obstruction or perforation
   Microbiology: C.diff negative
   Assessment and Plan
   H/O ATRIAL FIBRILLATION (AFIB): now in sinus rhythm, continue to
   monitor, hold all anticoagulants given GI bleed. Will resume enteric
   coated 160mg dialy
   GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB): will need
   endoscopy down the line.will refer to outpatient follow up unless there
   another evidence for bleed. continue to monitor hct. Change iv PPI to
   po PPI.
    UTI/ ? LLL pneumonia: will continue vanco and cefepime and stop
   ciprofloxacin pending cultures.
   ?PE: no convincing evidence for PE based on EtE records, given GI bleed
   will hold off on anticogulation at this point
   Hypernatremia: likely related to hypovolemia will push po fluids.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-4**] 08:00 AM
   20 Gauge - [**2125-1-4**] 08:02 AM
   22 Gauge - [**2125-1-4**] 10:26 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 13441**]
   note above, including assessment and plan. I would add:
   [**Age over 90 **] yo female with COPD, colon CA, p. afib
 admitted with coffee grds
   emesis/acute blood loss anemia in the context of supratherapeutic
   INR/ASA/plavix, and rapid afib. After further blood and fluids, she
   spontaneously converted to sinus rhythm. She has not had obvious
   bleeding in the ICU and serial hct
s have been unchanged.
   For UGIB/acute blood loss anemia, appears to be resolving. GI
   following, but no plans for endoscopy as she is improving with holding
   of anticoagulants. On PPI.
   Regarding possible PE, this was not based on a V/Q scan or a CTA but
   instead an Echo demonstrating elevated pulmonary pressures. This is not
   specific for PE and there are clearly risks associated with
   anticoagulation in her, no plans to restart coumadin.
   Plan to transfer to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-5**] 16:58 ------

2125-01-06 09:31:00 Physician Attending Progress Note
Chief Complaint: Atrical fibrillation with RVR
   Hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F with recent ankle fracture, anticoagulated, p/w GI bleed and Afib
   with RVR
   24 Hour Events:
 MULTI LUMEN - STOP [**2125-1-5**] 07:47 PM.
   Recurrent atrial fibrillation with RVR to 130s and pulmonary edema.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Nystatin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-1-4**] 03:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2125-1-6**] 01:45 AM
   Furosemide (Lasix) - [**2125-1-6**] 02:40 AM
   Other medications:
   Cefepime, Vanco, ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2125-1-6**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 96 (70 - 118) bpm
   BP: 150/85(101) {97/42(54) - 155/89(103)} mmHg
   RR: 19 (9 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,664 mL
                                                                     24 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    704 mL
                                                                     24 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                  1,487 mL
   Urine:
                                                                    480 mL
                                                                  1,487 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,184 mL
                                                                 -1,463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right base, Diminished: right side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left lower extremity edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   231 K/uL
   120 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.2 mEq/L
   42 mg/dL
   111 mEq/L
   146 mEq/L
   30.2 %
   11.8 K/uL
        [image002.jpg]
                             [**2125-1-4**]  08:10 AM
                             [**2125-1-4**]  10:40 AM
                             [**2125-1-4**]  02:22 PM
                             [**2125-1-4**]  07:43 PM
                             [**2125-1-5**]  03:14 AM
                             [**2125-1-5**]  03:29 PM
                             [**2125-1-6**]  12:51 AM
                             [**2125-1-6**]  04:12 AM
   WBC
   25.1
   16.8
   14.7
   11.8
   Hct
   31.0
   30.6
   31.8
   29.0
   28.1
   31.3
   30.2
   Plt
   377
   242
   235
   231
   Cr
   1.1
   1.0
   0.9
   TropT
   0.11
   0.11
   0.10
   Glucose
   131
   122
   120
   Other labs: PT / PTT / INR:12.9/25.0/1.1, CK / CKMB /
   Troponin-T:28//0.10, ALT / AST:20/21, Alk Phos / T Bili:43/0.8, Amylase
   / Lipase:59/46, Fibrinogen:450 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.3 g/dL, LDH:202 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Imaging: CXR:  left effusion and possible infiltrate
   Assessment and Plan
 LEUKOCYTOSIS:  Improving.
   Cont Vanco and Cefepime though empiric given no sputum culture
   obtained.
 ATRIAL FIBRILLATION (AFIB):
   Rate better controlled overnight with bolus IV metoprolol.  Will start
   standing PO lopressor at home dose.
   > Hypoxemia:
   Likely due to CHF in setting of Afib.  Continue diuresis.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):
   cont PPI.
   >CAD/h/o NSTEMI: cont ASA, restarting BBblocker.
   ICU Care
   Nutrition:
   Comments: Diet as tolerated
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-1-6**] 01:23 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU attending addendum:
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**Last Name (STitle) 347**]
   note above, including assessment and plan. I would add:
   [**Age over 90 **] yo female with COPD, colon CA, p. afib, recent ankle fracture
   admitted with coffee grds emesis/acute blood loss anemia in the context
   of supratherapeutic INR, and rapid afib. With PPI and withholding of
   triple anticoagulation (ASA/plavix/coumadin) she
s had no recurrent
   bleeding and hct
s have remained unchanged. Afib converted to SR
   shortly after admission.
   Plan was to send to floor yesterday, but while being evaluated by floor
   transfer team, she redeveloped rapid afib to 130
s and in that context
   developed acute pulmonary edema and respiratory distress. Some improvt
   today with diuresis, still requiring higher oxygen (4-5 liters nc)
   For acute respiratory distress/pulmonary edema, plan to continue
   diuresis and add back po B-blocker for rate control of afib. For UGI
   bleed, continue PPI, and to hold coumadin. ASA/ restarted for CAD.
   Remains in ICU pending improvt in resp status.
   Critical care time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-6**] 20:53 ------

2125-01-07 10:26:00 Physician Attending Progress Note
Chief Complaint: GI bleed,  Afib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F p/w GI bleed in setting of supratherapuetic INR along with Afib
   with RVR.
   24 Hour Events:
   This AM, she her HR has increased again to 120s.
   Allergies:
   Nystatin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-1-4**] 03:00 PM
   Vancomycin - [**2125-1-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2125-1-7**] 02:00 AM
   Furosemide (Lasix) - [**2125-1-7**] 02:20 AM
   Other medications:
   Cefepime
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: Cough, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2125-1-7**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 118 (90 - 121) bpm
   BP: 133/63(81) {64/41(53) - 156/97(110)} mmHg
   RR: 13 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,020 mL
                  PO:
                                                                    320 mL
                  TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  2,842 mL
                                                                    875 mL
   Urine:
                                                                  2,842 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,822 mL
                                                                   -875 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases, Wheezes :
   b/l, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   222 K/uL
   104 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   36 mg/dL
   107 mEq/L
   146 mEq/L
   30.6 %
   15.2 K/uL
        [image002.jpg]
                             [**2125-1-4**]  08:10 AM
                             [**2125-1-4**]  10:40 AM
                             [**2125-1-4**]  02:22 PM
                             [**2125-1-4**]  07:43 PM
                             [**2125-1-5**]  03:14 AM
                             [**2125-1-5**]  03:29 PM
                             [**2125-1-6**]  12:51 AM
                             [**2125-1-6**]  04:12 AM
                             [**2125-1-6**]  04:50 PM
                             [**2125-1-7**]  02:59 AM
   WBC
   25.1
   16.8
   14.7
   11.8
   15.2
   Hct
   31.0
   30.6
   31.8
   29.0
   28.1
   31.3
   30.2
   30.6
   Plt
   377
   242
   235
   231
   222
   Cr
   1.1
   1.0
   0.9
   0.8
   0.7
   TropT
   0.11
   0.11
   0.10
   Glucose
   131
   122
   120
   105
   104
   Other labs: PT / PTT / INR:12.9/25.0/1.1, CK / CKMB /
   Troponin-T:28//0.10, ALT / AST:20/21, Alk Phos / T Bili:43/0.8, Amylase
   / Lipase:59/46, Fibrinogen:450 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.3 g/dL, LDH:202 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 FRACTURE, OTHER:
   F/u ortho
 LEUKOCYTOSIS:
   WBC back up today.
   Repeat urine culture, check sputum culture.
 ATRIAL FIBRILLATION (AFIB) with RVR:
   Titrate up lopressor.
   Hypoxemia:
   CXR yesterday shows possible RLL consolidation.  Rpt CXR today.
   Has already been covered for HCAP.  Given no evidence of MRSA
   pneumonia, stop vanco.  Cont cefepime for now.
   Has been diuresed.  Maintain even fluid balance.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):
   No evidence of further bleeding.  Hct stable.
   ICU Care
   Nutrition: Tolerating PO diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-1-7**] 03:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:  No MV
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Known lastname **] with Dr. [**Last Name (STitle) 347**]; his note and the ICU team
   note from today reflect my input.  I would add/emphasize that she had
   been doing better until a few hours ago.  Was eating and then after
   being put into bed began coughing and had food and coffee come up.
   Now, more somnolent.  CXR with some increased basilar opacities.  HR up
   to 120s again.
   Resp distress
 appears to have both aspiration and intermittent acute
   diastolic CHF
   Aspiration
 appears to have silent aspiration.  Speech/swallow.  NPO
   for now.  Consider broadening ABX if not improved shortly.
   Atrial fibrillation
 beta blockade
   Encephalopathy
 likely related to resp distress/aspiration/AFib.
   Follow clinically for now
   GI bleed
 not presently bleeding.  Follow Hct.
   Fracture
 follow up ortho recs
   Maintain in ICU given acute respiratory distress and encephalopathy.
   Other issues as per Dr. [**Last Name (STitle) 347**]
s note
   Critically ill
 35 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-7**] 16:50 ------

2125-01-08 10:59:00 Physician Attending Progress Note
Chief Complaint: hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Witness aspiraiton on saturday and sunday. SLP eval this am with desats
   with thin liquids, now on nectal thick and pureed diet.
   Allergies:
   Nystatin
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   cefepime, pantoprazole, aspirin, heparin s/c tid, lopressor 10 iv q6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-8**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 99 (78 - 117) bpm
   BP: 149/85(98) {92/36(49) - 149/92(98)} mmHg
   RR: 24 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,726 mL
                                                                     27 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,126 mL
                                                                     27 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    340 mL
   Urine:
                                                                  1,710 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     16 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), irregular.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left lower extremity edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   262 K/uL
   89 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   35 mg/dL
   106 mEq/L
   145 mEq/L
   32.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2125-1-4**]  02:22 PM
                             [**2125-1-4**]  07:43 PM
                             [**2125-1-5**]  03:14 AM
                             [**2125-1-5**]  03:29 PM
                             [**2125-1-6**]  12:51 AM
                             [**2125-1-6**]  04:12 AM
                             [**2125-1-6**]  04:50 PM
                             [**2125-1-7**]  02:59 AM
                             [**2125-1-7**]  08:56 PM
                             [**2125-1-8**]  01:38 AM
   WBC
   16.8
   14.7
   11.8
   15.2
   12.7
   Hct
   30.6
   31.8
   29.0
   28.1
   31.3
   30.2
   30.6
   32.5
   Plt
   [**Telephone/Fax (3) 13547**]22
   262
   Cr
   1.0
   0.9
   0.8
   0.7
   0.9
   0.8
   TropT
   0.11
   0.10
   Glucose
   122
   120
   105
   104
   98
   89
   Other labs: PT / PTT / INR:12.9/25.0/1.1, CK / CKMB /
   Troponin-T:28//0.10, ALT / AST:20/21, Alk Phos / T Bili:43/0.8, Amylase
   / Lipase:59/46, Fibrinogen:450 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.3 g/dL, LDH:202 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Imaging: CXR improved aeration of right base
   Assessment and Plan
   Pneumonia: aspiration on cefepime alone for 8 day course. some
   component of intermittnet mucous plugging as well. Continue chest PT,
   seen by SLP and now on dysphagia diet.
   Afib with RVR: will change lopressor to po from iv, on 162 of aspirin
   daily, doesnot meet criteria for coumadin.
   hypoernatremia: improved.
   Leukocytosis: likley [**12-19**] to aspiraiton pneumonia improving.
   hematemesis: continue on PPI.
   Low urine output: will encourage po intake.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-1-7**] 03:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined the pt on rounds, and was present with the ICU team
   for the key portions of services provided. I agree with  Dr. [**First Name (STitle) 10164**]
   note, including assessment and plan.
   She was again noted to aspirate yesterday with subsequent respiratory
   distress- plans for transfer put on hold. This morning, she appears
   comfortable, no tachypnea, on 3 liters n.c. oxygen
   Problem list:
   Acute respiratory distress from aspiration/HCAP- improved, seen by
   Speech Tx today; to complete 8 day course of Cefipime for HCAP
   Atrial fibrillation: rate controlled, will switch back to po beta
   blockers
   UGI bleed- resolved with holding of triple anticoagulation and PPI.
   Currently on ASA only; likely will not re-initiate coumadin
   Recent NSTEMI
   Fracture
   Appears ready for floor transfer
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-8**] 12:20 PM ------